US09108969B2
Preparation of 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid (Compound 10)
From 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid and 1-iodopyrrolidine-2,5-dione, in a similar manner to the one described in Example 1.4, the title compound was obtained as a brown solid. LCMS m/z=584.5 [M+H]+; 1H NMR (400 MHz, DMSO-d6) 5 ppm 1.55-1.73 (m, 4H), 1.78-1.89 (m, 2H), 1.94-2.06 (m, 2H), 2.25-2.37 (m, 1H), 2.45-2.58 (m, 1H), 2.77-2.90 (m, 1H), 3.00 (dd, J=16.36, 3.35 Hz, 1H), 3.20-3.29 (m, 1H), 3.52-3.61 (m, 1H), 4.00-4.10 (m, 1H), 4.13-4.23 (m, 1H), 5.18 (s, 2H), 6.80 (d, J=2.40 Hz, 1H), 6.87 (dd, J=8.78, 2.34 Hz, 1H), 7.26 (d, J=8.72 Hz, 1H), 7.63 (d, J=8.08 Hz, 1H), 7.70-7.78 (m, 2H), 12.30 (bs, 1H).

reactant | 2-(7-(4-cyclopentyl-3-(trifluoromethyl)benzyloxy)-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic acid | C1(CCCC1)C1=C(C=C(COC2=CC=3C=C4N(C3C=C2)CCC4CC(=O)O)C=C1)C(F)(F)F | C26H26F3NO3
reactant | 1-iodopyrrolidine-2,5-dione | IN1C(CCC1=O)=O | C4H4INO2
product | 2-(7-(4-Cyclopentyl-3-(trifluoromethyl)benzyloxy)-9-iodo-2,3-dihydro-1H-pyrrolo[1,2-a]indol-1-yl)acetic Acid | C1(CCCC1)C1=C(C=C(COC2=CC=3C(=C4N(C3C=C2)CCC4CC(=O)O)I)C=C1)C(F)(F)F | C26H25F3INO3
